US08536338B2
Step 8: Preparation of the titled compound: 2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-2-yl)cyclopropylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide
TFA (544 μL, 7.06 mmol) was added to a stirring solution of tert-butyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate (65 mg, 0.141 mmol) in DCE (1.4 mL) at rt. It was allowed to stir for 2 hours then concentrated. The white solid was taken up in DMF (1.5 mL) and treated with DIEA (123 μL, 0.706 mmol), 1-(pyrimidin-2-yl)cyclopropanamine hydrochloride (29.1 mg, 0.169 mmol) followed by HATU (81 mg, 0.212 mmol) at rt. The reaction was allowed to stir for 1 hour and then was purified by preparative reverse phase HPLC on a C18 column using a TFA buffered H2O/MeOH gradient, and concentrated to give the expected product 2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-2-yl)cyclopropylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide (45 mg, 0.086 mmol, 61.1% yield) consistent by LCMS and NMR. 1H NMR (300 MHz, DMSO-d6) d ppm 9.19 (1H, s), 8.66 (2H, d, J=4.76 Hz), 8.45-8.57 (1H, m), 8.40 (1H, d, J=1.83 Hz), 8.10 (1H, d, J=1.83 Hz), 8.00-8.08 (2H, m), 7.85-7.94 (2H, m), 7.35-7.50 (3H, m), 7.26 (1H, t, J=4.76 Hz), 2.83 (3H, d, J=4.39 Hz), 2.31 (3H, s), 1.55-1.67 (2H, m), 1.27-1.39 (2H, m). LC-MS retention time: 1.75 min; m/z (MH'): 522. LC data was recorded on a Shimadzu LC-10AS liquid chromatograph equipped with a Waters XBridge 5u C18 4.6×50 mm column using a SPD-10AV UV-Vis detector at a detector wave length of 220 nM. The elution conditions employed a flow rate of 5 ml/min, a gradient of 100% solvent A/0% solvent B to 0% solvent A/100% solvent B, a gradient time of 2 min, a hold time of 1 min, and an analysis time of 3 min where solvent A was 5% MeOH/95% H2O/10 mM ammonium acetate and solvent B was 5% H2O/95% MeOH/10 mM ammonium acetate. MS data was determined using a Micromass Platform for LC in electrospray mode.

reactant | TFA | 7.06 mmol, 544 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl 3-(2-(4-fluorophenyl)-3-(methylcarbamoyl)furo[2,3-b]pyridin-5-yl)-4-methylbenzoate | 0.141 mmol, 65 mg | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C=2C=C(C(=O)OC(C)(C)C)C=CC2C)O1)C(NC)=O | C27H25FN2O4
reactant | DIEA | 0.706 mmol, 123 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-(pyrimidin-2-yl)cyclopropanamine hydrochloride | 0.169 mmol, 29.1 mg | Cl.N1=C(N=CC=C1)C1(CC1)N
reactant | HATU | 0.212 mmol, 81 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DCE | 1.4 mL | ClCCCl | C2H4Cl2
product | 2-(4-fluorophenyl)-N-methyl-5-(2-methyl-5-(1-(pyrimidin-2-yl)cyclopropylcarbamoyl)phenyl)furo[2,3-b]pyridine-3-carboxamide | 0.086 mmol, 45 mg, 61.1% yield | FC1=CC=C(C=C1)C1=C(C=2C(=NC=C(C2)C2=C(C=CC(=C2)C(NC2(CC2)C2=NC=CC=N2)=O)C)O1)C(=O)NC | C30H24FN5O3
